US07935674B2
3-(5-(6-Fluoro-3-pyridyl)thiophen-2-yl-methyl)-4-methyl-1-(β-D-glucopyranosyl)indole
3-(5-Bromothiophen-2-yl-methyl)-4-methyl-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 45-(3) and 6-fluoropyridine-3-boronic acid were treated in a manner similar to Example 45-(4) and 2-(7) to give the titled compound as a colorless powder. APCI-Mass m/Z 485 (M+H). 1H-NMR (DMSO-d6) δ 2.50 (s, 3H), 3.20-3.50 (m, 4H), 3.70 (m, 2H), 4.40 (s, 2H), 4.54 (t, J=5.4 Hz, 1H), 5.09 (d, J=5.3 Hz, 1H), 5.16 (d, J=5.7 Hz, 1H), 5.17 (d, J=5.7 Hz, 1H), 5.36 (d, J=9.0 Hz, 1H), 6.75 (d, J=7.1 Hz, 1H), 6.87 (d, J=3.4 Hz, 1H), 7.00 (t, J=7.7 Hz, 1H), 7.19 (dd, J=8.6, 2.7 Hz, 1H), 7.33 (s, 1H), 7.37 (d, J=8.2 Hz, 1H), 7.44 (d, J=3.4 Hz, 1H), 8.16 (dt, J=8.2, 2.4 Hz, 1H), 8.45 (d, J=2.3 Hz, 1H).

reactant | 3-(5-Bromothiophen-2-yl-methyl)-4-methyl-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | BrC1=CC=C(S1)CC1=CN(C2=CC=CC(=C12)C)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H30BrNO9S
reactant | 6-fluoropyridine-3-boronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | 3-(5-(6-Fluoro-3-pyridyl)thiophen-2-yl-methyl)-4-methyl-1-(β-D-glucopyranosyl)indole | FC1=CC=C(C=N1)C1=CC=C(S1)CC1=CN(C2=CC=CC(=C12)C)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H25FN2O5S
